### PR TITLE
feat(RingTheory/Morita/IsSimpleRing): simple modules over simple rings

### PR DESCRIPTION
**Pull request by Whysoserioushah**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 1]
```diff
@@ -0,0 +1,124 @@
...
+-/
+
+@[expose] public section
+
+universe w u v
+
+section simple
+
+variable (k : Type u) (A : Type v) [Field k] [Ring A] [Algebra k A]
+    [IsSimpleRing A] [Module.Finite k A]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]: I looked at the proofs and basically everything seems to work for `[CommRing k]` `[IsArtinianRing k]`, with close to no modifications on the proofs, except for `linearEquiv_iff_finrank_eq_over_simple_ring`:

For `linearEquiv_iff_finrank_eq_over_simple_ring`, Bourbaki deduces this from a more general proposition: Algèbre, Chapitre VIII, §7, N°2, Prop 2, which says that two simple modules over a simple ring are A-linearly equivalent if and only if they have the same length.

In the situation of `linearEquiv_iff_finrank_eq_over_simple_ring`, if `k` is an artinian ring, then the modules will have finite length over `A` and same length over if and only if they have same length over `k`, and when `k` is a field, the length over `k` will be the `finrank`.

I didn’t look much into the details of that proposition, so I don’t know if mathlib has the required ingredient, but if we do, I think it’s worth a shot trying to have the general length-version and deduce the `finrank` version for fields from it as Bourbaki does.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: done!

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+  obtain ⟨S, hS⟩ := IsAtomic.exists_atom (Submodule A A)
+  rw [← isSimpleModule_iff_isAtom] at hS
+  obtain ⟨m, ⟨eM⟩⟩ := (isIsotypicOfType_over_simple A M S).linearEquiv_fun
+  obtain ⟨n, ⟨eN⟩⟩ := (isIsotypicOfType_over_simple A N S).linearEquiv_fun
+  have : Nontrivial S := IsSimpleModule.nontrivial A S
+  obtain rfl : m = n := by
+    apply_fun ENat.toNat at h
+    simpa [(eM.restrictScalars k).length_eq, (eN.restrictScalars k).length_eq,
+      (Module.length_pos (R := k) (M := S)).ne', Module.length_ne_top] using h
+  exact ⟨eM.trans eN.symm⟩
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean:114]: What I had in mind was to first prove
```lean
/-- Two finite modules over an artinian simple ring `A` have an `A`-linear
equivalence if and only if their `A`-length is the same. -/
lemma linearEquiv_iff_length_eq_of_isSimpleRing [IsArtinianRing A]
    (M N : Type v) [AddCommGroup M] [Module A M] [AddCommGroup N] [Module A N]
    [Module.Finite A M] [Module.Finite A N] :
    Nonempty (M ≃ₗ[A] N) ↔ Module.length A M = Module.length A N := by
  refine ⟨fun ⟨e⟩ ↦ e.length_eq, fun h ↦ ?_⟩
  obtain ⟨S, hS⟩ := IsAtomic.exists_atom (Submodule A A)
  rw [← isSimpleModule_iff_isAtom] at hS
  obtain ⟨m, ⟨eM⟩⟩ := (isIsotypicOfType_over_simple A M S).linearEquiv_fun
  obtain ⟨n, ⟨eN⟩⟩ := (isIsotypicOfType_over_simple A N S).linearEquiv_fun
  have : Nontrivial S := IsSimpleModule.nontrivial A S
  obtain rfl : m = n := by
    apply_fun ENat.toNat at h
    simpa [eM.length_eq, eN.length_eq,
      (Module.length_pos (M := S)).ne', Module.length_ne_top] using h
  exact ⟨eM.trans eN.symm⟩
```
which has no `k`, but I now realize that it’s basically as long to deduce the version where `A` is an algebra over an Artinian ring from it than to re-prove it as you did (but perhaps I missed some lemmas?), so I don’t know if it’s worth adding? (Note that it can’t be deduced "trivially" by putting `k := A` because `A` might not be commutative).
So your pick on whether or not we should add this variant.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean:114]: sure let's add it why not

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 3]
```diff
@@ -0,0 +1,160 @@
...
+
+universe w u v
+
+section simple
+
+variable (k : Type u) (A : Type v) [CommRing k] [Ring A] [Algebra k A]
+    [IsSimpleRing A] [Module.Finite k A]
+
+@[stacks 074E "(1)"]
+lemma linearEquiv_of_isSimpleModule_over_simple_ring [IsArtinianRing A] (M N : Type w)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]: Everything is in the `root` namespace!

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 4]
```diff
@@ -0,0 +1,160 @@
...
+/-!
+## Simple modules over simple rings
+
+## Main results
+
+* `linearEquiv_of_isSimpleModule_over_simple_ring`: any two simple modules over an Artinian
+  simple ring are isomorphic.
+* `directSum_simple_module_over_simple_ring`: any module over an Artinian simple ring is
+  isomorphic to a direct sum of copies of a simple module.
+* `linearEquiv_iff_length_eq_over_simple_ring`: two finite modules over a simple algebra `A` over a
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]: There is no `linearEquiv_iff_length_eq_over_simple_ring` in the file.

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 5]
```diff
@@ -0,0 +1,160 @@
...
+  commutative Artinian ring `k` are isomorphic as `A`-modules if and only if they have the same
+  length over `k`.
+* `linearEquiv_iff_finrank_eq_over_simple_ring`: two finite modules over a finite simple algebra
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]: Same.

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 6]
```diff
@@ -0,0 +1,160 @@
...
+
+public import Mathlib.RingTheory.HopkinsLevitzki
+public import Mathlib.RingTheory.Length
+public import Mathlib.LinearAlgebra.Dimension.Finite
+public import Mathlib.LinearAlgebra.FiniteDimensional.Defs
+public import Mathlib.LinearAlgebra.Matrix.Module
+public import Mathlib.RingTheory.SimpleModule.WedderburnArtin
+
+/-!
+## Simple modules over simple rings
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]:
```suggestion
# Simple modules over simple rings
```

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 7]
```diff
@@ -0,0 +1,160 @@
...
+  have : Module.Finite k M := .trans A M
+  have : Module.Finite k N := .trans A N
+  rw [linearEquiv_iff_length_eq_over_simple_algebra k A M N, Module.length_eq_finrank,
+    Module.length_eq_finrank, Nat.cast_inj]
+
+namespace IsSimpleRing
+
+open Matrix.Module
+
+scoped instance isScalarTower_matrix_pi {n : ℕ} (D : Type w) [DivisionRing D] [Algebra k D] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]: I think we already have this, can't you just remove it?

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 8]
```diff
@@ -0,0 +1,160 @@
...
+    IsScalarTower k (Matrix (Fin n) (Fin n) D) (Fin n → D) where
+  smul_assoc a b x := by ext; simp [Finset.smul_sum]
+
+/-- Along a Wedderburn–Artin isomorphism `A ≃ₐ[k] Mₙ(D)`, the induced `A`-action on `Fin n → D`
+is compatible with the `k`-action. -/
+scoped instance isScalarTower_compHom_pi {n : ℕ} (D : Type w) [DivisionRing D] [Algebra k D]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean:134]: Are these two instances for a follow-up PR?

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 9]
```diff
@@ -0,0 +1,160 @@
...
+
+lemma directSum_simple_module_over_simple_algebra' (A : Type v) [Ring A] [IsArtinianRing A]
+    [IsSimpleRing A] (M : Type v) [AddCommGroup M] [Module A M]
+    (S : Type v) [AddCommGroup S] [Module A S] [IsSimpleModule A S] :
+    ∃ (ι : Type v), Nonempty (M ≃ₗ[A] (ι →₀ S)) :=
+  (isIsotypicOfType_over_simple A M S).linearEquiv_finsupp
+
+/-- Two finite modules over an artinian simple ring `A` have an `A`-linear
+equivalence if and only if their `A`-length is the same. -/
+lemma linearEquiv_iff_length_eq_over_isSimpleRing [IsArtinianRing A]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]: The name is inconsistent with `linearEquiv_iff_length_eq_over_simple_algebra` below. Something has to  be fixed.

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 10]
```diff
@@ -0,0 +1,160 @@
...
+    [Module A M] : ∃ (S : Type v) (_ : AddCommGroup S) (_ : Module k S)
+    (_ : Module A S) (_ : IsScalarTower k A S) (_ : IsSimpleModule A S) (ι : Type v),
+    Nonempty (M ≃ₗ[A] (ι →₀ S)) := by
+  let : IsArtinianRing A := IsArtinianRing.of_finite k A
+  obtain ⟨S, _, _, _, ι, ⟨iso⟩⟩ := directSum_simple_module_over_simple_ring A M
+  let : Module k S := Module.compHom S (algebraMap k A)
+  have : IsScalarTower k A S := .of_algebraMap_smul fun _ _ ↦ rfl
+  exact ⟨S, inferInstance, inferInstance, inferInstance, inferInstance, inferInstance, ι, ⟨iso⟩⟩
+
+lemma directSum_simple_module_over_simple_algebra' (A : Type v) [Ring A] [IsArtinianRing A]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]: There is no algebra here.

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 11]
```diff
@@ -0,0 +1,160 @@
...
+  rw [← isSimpleModule_iff_isAtom] at hS
+  obtain ⟨ι, he⟩ := (isIsotypicOfType_over_simple A M S).linearEquiv_finsupp
+  exact ⟨S, inferInstance, inferInstance, hS, ι, he⟩
+
+@[stacks 074E "(2)"]
+lemma directSum_simple_module_over_simple_algebra [IsArtinianRing k] (M : Type v) [AddCommGroup M]
+    [Module A M] : ∃ (S : Type v) (_ : AddCommGroup S) (_ : Module k S)
+    (_ : Module A S) (_ : IsScalarTower k A S) (_ : IsSimpleModule A S) (ι : Type v),
+    Nonempty (M ≃ₗ[A] (ι →₀ S)) := by
+  let : IsArtinianRing A := IsArtinianRing.of_finite k A
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]:
```suggestion
  have : IsArtinianRing A := IsArtinianRing.of_finite k A
```

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 12]
```diff
@@ -0,0 +1,160 @@
...
+Copyright (c) 2026 Yunzhou Xie. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Edison Xie
+-/
+module
+
+public import Mathlib.RingTheory.HopkinsLevitzki
+public import Mathlib.RingTheory.Length
+public import Mathlib.LinearAlgebra.Dimension.Finite
+public import Mathlib.LinearAlgebra.FiniteDimensional.Defs
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]:
```suggestion
```

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: What’s the instance? I’m happy to remove it if it’s a duplicated work :)

Comment (riccardobrasca) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: I think [LinearMap.mapMatrixModule](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Module.html#LinearMap.mapMatrixModule), but it's scoped.

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: changed name

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: added `IsSimpleRing` namespace

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: `LinearMap.mapMatrixModule` is not an instance, it's a `def` ...? Do you mean `Matrix.Module.instIsScalarTowerForall`?

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: But it is indeed the right instance btw, removed!

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean (hunk 9 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: changed!

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 13]
```diff
@@ -0,0 +1,158 @@
...
+
+universe w u v
+
+section simple
+
+variable (k : Type u) (A : Type v) [CommRing k] [Ring A] [Algebra k A]
+    [IsSimpleRing A] [Module.Finite k A]
+
+@[stacks 074E "(1)"]
+lemma linearEquiv_of_isSimpleModule_over_simple_ring [IsArtinianRing A] (M N : Type w)
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean]:
```suggestion
lemma nonempty_linearEquiv_of_isSimpleModule_of_isSimpleRing [IsArtinianRing A] (M N : Type w)
```

Comment (erdOne) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: Similarly the names of most declarations also do not follow the naming convention.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: does the name now look good?

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean (hunk 10 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: changed name

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Morita/IsSimpleRing.lean]: changed

**Comment by riccardobrasca** [comment]
I am really not that good at choosing names, but LGTM. Let's wait for a final word by Andrew.

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 14]
```diff
@@ -0,0 +1,151 @@
...
+  exact ⟨S, inferInstance, inferInstance, hS, ι, he⟩
+
+lemma directSum_simple_module_of_isSimpleRing' (A : Type u) [Ring A] [IsArtinianRing A]
+    [IsSimpleRing A] (M : Type v) [AddCommGroup M] [Module A M]
+    (S : Type v) [AddCommGroup S] [Module A S] [IsSimpleModule A S] :
+    ∃ (ι : Type v), Nonempty (M ≃ₗ[A] (ι →₀ S)) :=
+  (isIsotypicOfType_of_isSimpleRing A M S).linearEquiv_finsupp
+
+@[stacks 074E "(2)"]
+lemma directSum_simple_module_of_simple_algebra [IsArtinianRing k] (M : Type v) [AddCommGroup M]
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean:71]: `simple_module` and `simple_algebra` are still not valid lean identifiers and you shouldn't mention them in names. 

Also how useful is this theorem actually? The `k` isn't really doing anything here and one could have just used `directSum_simple_module_of_isSimpleRing` (which also should be renamed)?

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 15]
```diff
@@ -0,0 +1,151 @@
...
+
+namespace IsSimpleRing
+
+variable (k : Type u) (A : Type v) [CommRing k] [Ring A] [Algebra k A]
+    [IsSimpleRing A] [Module.Finite k A]
+
+@[stacks 074E "(1)"]
+lemma nonempty_linearEquiv_of_isSimpleModule_of_isSimpleRing [IsArtinianRing A] (M N : Type w)
+    [AddCommGroup M] [AddCommGroup N] [Module A M] [Module A N] [IsSimpleModule A M]
+    [IsSimpleModule A N] : Nonempty (M ≃ₗ[A] N) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean:42]: Also, how essential are these universe constraints?
Can you just ulift them to `max uM uN`?

File: Mathlib/RingTheory/Morita/IsSimpleRing.lean [hunk 16]
```diff
@@ -0,0 +1,151 @@
...
+  exact ⟨eM.trans eN.symm⟩
+
+/-- Two finite modules over a simple `k`-algebra `A` have an `A`-linear equivalence if and only if
+their `k`-length is the same. -/
+@[stacks 074E "(3)"]
+lemma nonempty_linearEquiv_iff_length_eq_of_simple_algebra [IsArtinianRing k]
+    (M N : Type v) [AddCommGroup M] [Module A M] [AddCommGroup N] [Module A N]
+    [Module k M] [Module k N] [IsScalarTower k A M] [IsScalarTower k A N]
+    [Module.Finite A M] [Module.Finite A N] :
+    Nonempty (M ≃ₗ[A] N) ↔ Module.length k M = Module.length k N := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Morita/IsSimpleRing.lean:102]: Is it just true that `Module.length k M = Module.length k N <-> Module.length A M = Module.length A N` in general?
